US07888366B2
To a mixture of 60% sodium hydride (0.160 g; 4.00 mmol) in DMF (5 mL) at 0° C. was added dropwise (2-hydroxymethyl)tetrahydropyran (0.465 g; 4.00 mmol) and the mixture was stirred at 0° C. for 30 minutes. The mixture was added to a solution of 2,6-difluorobenzonitrile (0.556 g, 4.00 mmol) in DMF (5 mL) at 0° C. and stirred for 18 hours at ambient temperature. The solution was poured into a mixture of ice and water, and extracted with ethyl acetate. The organic layer was washed with water and then brine, dried over magnesium sulfate, and solvent removed. Purification by column chromatography (CH2Cl2) to yield 0.587 grams of 2-(tetrahydropyran-2-ylmethoxy)benzonitrile.

reactant | sodium hydride | 4.00 mmol, 0.160 g | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 4.00 mmol, 0.556 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | water | O | H2O
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(tetrahydropyran-2-ylmethoxy)benzonitrile | 0.587 grams | O1C(CCCC1)COC1=C(C#N)C=CC=C1 | C13H15NO2
